US20010027196A1
To a stirred suspension of 350 mg (1.49 mmol) 5-ethyl-4-furan-2-yl-6-methylsulfanyl-pyrimidin-2-ylamine in 15 ml dichloromethane was added 780 mg (3.00 mmol) 3-phenyl-2-(phenylsulfonyl)oxaziridine and stirring continued for 16 hours at room temperature. The reaction mixture was then partitioned between dichloromethane and water and the phases separated. The organic phase was dried over sodium sulfate and concentrated in vacuo. Chromatography (ethyl acetate then methanol/ethyl acetate 1/5) afforded 170 mg (46%) 5-ethyl-4-furan-2-yl-6-methanesulfinyl-pyrimidin-2-ylamine as a yellow crystalline solid. ES-MS m/e (%): 252 (M+H+, 100).

reactant | 5-ethyl-4-furan-2-yl-6-methylsulfanyl-pyrimidin-2-ylamine | 1.49 mmol, 350 mg | C(C)C=1C(=NC(=NC1SC)N)C=1OC=CC1 | C11H13N3OS
reactant | 3-phenyl-2-(phenylsulfonyl)oxaziridine | 3.00 mmol, 780 mg | C1(=CC=CC=C1)C1N(O1)S(=O)(=O)C1=CC=CC=C1 | C13H11NO3S
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
product | 5-ethyl-4-furan-2-yl-6-methanesulfinyl-pyrimidin-2-ylamine | 170 mg, 46% | C(C)C=1C(=NC(=NC1S(=O)C)N)C=1OC=CC1 | C11H13N3O2S
